US06498172B1
7-[(4-Pyrazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-heptanoic acid methyl ester.
The title compound of Step A was prepared from 7-(4-pyrazol-1-yl-benzylamino)-heptanoic acid methyl ester, of Example 11f, Step A, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.70 (m, 1H), 7.99-7.87 (m, 3H), 7.71 (d, 1H), 7.63 (d, 2H), 7.46 (m, 1H), 7.42 (d, 2H), 6.46 (dd, 1H), 4.56 (s, 2H), 3.62 (s, 3H), 3.25 (t, 2H), 2.20 (t, 2H), 1.46 (m, 2H), 1.34 (m, 2H), 1.25 (m, 4H); MS 457 (M+1).

reactant | 7-(4-pyrazol-1-yl-benzylamino)-heptanoic acid methyl ester | COC(CCCCCCNCC1=CC=C(C=C1)N1N=CC=C1)=O | C18H25N3O2
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-[(4-Pyrazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-heptanoic acid methyl ester | COC(CCCCCCN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C23H28N4O4S
